US05712274
(±)-4-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid (1.0 g), 2-aminopyrimidine (0.28 g) and pyridine (0.49 ml) are added to dichloroethane (15 ml), and the mixture is stirred in an ice bath. A solution of 2-chloro-1,3-dimethylimidazolium chloride (0.63 g) in dichloroethane (12 ml) is dropwise added to this mixture at a temperature of not more than 5° C. The mixture is stirred at room temperature overnight, and the reaction mixture is washed with water and dried over anhydrous magnesium sulfate. The solvent is distilled away and the residue is purified by column chromatography (chloroform:methanol=20:1) and recrystallized from ethanol to give 0.78 g of (±)-N-(2-pyrimidinyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide, melting point 251°-253° C.

reactant | (±)-4-(4-Chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetic acid | 1.0 g | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C19H17ClN4O2S
reactant | 2-aminopyrimidine | 0.28 g | NC1=NC=CC=N1 | C4H5N3
reactant | pyridine | 0.49 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 0.63 g | [Cl-].ClC1=[N+](C=CN1C)C
solvent | dichloroethane | 12 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | (±)-N-(2-pyrimidinyl)-4-(4-chlorophenyl)-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-6-acetamide | 0.78 g | N1=C(N=CC=C1)NC(CC1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C(=C(S3)C)C)C(=NN2)C)=O | C23H20ClN7OS
